data/oMe_Silver.jsonl
{"reaction_id": "NR-127_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C(F)(F)F","name": "Krapcho Decarboxylation","level": "medium","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(=O)OC"],"products_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)"],"conditions": "[Li+].[Cl-]","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(=O)[O-]","rationale": "Chloride, a good nucleophile in polar aprotic media, attacks the methyl ester, displacing methoxide due to its good leaving group ability and forming a stabilized carboxylate."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C-](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","rationale": "The carboxylate undergoes heterolytic C–C bond cleavage, driven by CO2 release, as the resulting carbanion is stabilized by adjacent substituents and entropy gain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","rationale": "The carbanion abstracts a proton from the medium, as protonation yields the neutral alkane, which is thermodynamically more stable than the charged species."}],"description": "Under LiCl conditions, chloride acts as a nucleophile to displace the methyl ester group, generating a carboxylate. The carboxylate undergoes decarboxylation due to the instability of the intermediate, yielding the alkane after protonation."}
{"reaction_id": "NR-137_1-C(C)(C)C_2-c1ccccc1_3-C_4-CC","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C(C)(C)C)C(=O)C(c1ccccc1)","O=CC(C)"],"products_smiles": ["C1(C)OC(CC)C(c1ccccc1)C(=O)C1(C(C)(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccccc1)C(=O)C(=C(C))(C(C)(C)C)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)=C(C(C)(C)C)C(=O)C(c1ccccc1)C(O)(CC)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)=C(C(C)(C)C)C(=[OH+])C(c1ccccc1)C(O)(CC)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C)C(C(C)(C)C)=C(O)C(c1ccccc1)C(CC)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)C(C(C)(C)C)=C(O)C(c1ccccc1)C(CC)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)OC(CC)C(c1ccccc1)C(=O)C1(C(C)(C)C)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
